US07157487B2
To methyl (2-(1-indolinyl)-6-benzoxazolyl)acetate (200 mg, 0.649 mmol) were added THF/methanol (6/3 ml) and 1N NaOH (3 ml). The resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. To the residue was added 1N HCl to acidify the residue therewith. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (2-(1-indolinyl)-6-benzoxazolyl)acetic acid (161 mg, 84%) as a brown solid.

reactant | methyl (2-(1-indolinyl)-6-benzoxazolyl)acetate | 0.649 mmol, 200 mg | N1(CCC2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C18H16N2O3
reactant | NaOH | 1N, 3 ml | [OH-].[Na+]
solvent | THF methanol | 3 ml | C1CCOC1.CO
product | (2-(1-indolinyl)-6-benzoxazolyl)acetic acid | 161 mg, 84% | N1(CCC2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)O | C17H14N2O3
